US07723333B2
4-(2,3-Dihydro-1H-inden-2-ylamino)-2-(2-methoxyethyl)-5-phenylisothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared from 4-chloro-2-(2-methoxyethyl)-5-phenylisothiazol-3(2H)-one 1,1-dioxide and indan-2-amine in a similar manner as described for Example 1. 1H NMR (400 MHz, CD3CN): δ 7.65-7.60 (m, 2H), 7.55-7.50 (m, 3H), 7.13-7.11 (m, 4H), 5.90 (d, 1H), 4.06-3.98 (m, 1H), 3.83 (t, 2H), 3.67 (t, 2H), 3.38 (s, 3H), 2.84-2.81 (m, 4H); Mass Spectrum: M+H+ 399.

reactant | 4-chloro-2-(2-methoxyethyl)-5-phenylisothiazol-3(2H)-one 1,1-dioxide | ClC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)CCOC)=O | C12H12ClNO4S
reactant | indan-2-amine | C1C(CC2=CC=CC=C12)N | C9H11N
product | 4-(2,3-Dihydro-1H-inden-2-ylamino)-2-(2-methoxyethyl)-5-phenylisothiazol-3(2H)-one 1,1-dioxide | C1C(CC2=CC=CC=C12)NC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)CCOC)=O | C21H22N2O4S
